US08440652B2
A mixture of (6-amino-5-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyridin-3-yl)boronic acid (291 mg, 1.02 mmol), 5-bromo-N-ethylthiophene-2-sulfonamide (278 mg, 1.02 mmol), and PdCl2(PPh3)2 (35 mg, 0.05 mmol) in n-BuOH (3 mL) was treated with 2.0 M aq. Na2CO3 solution (1 mL) then microwave heated at 140° C. for 6 min. The reaction was then filtered, and purified by HPLC to provide 5-(6-amino-5-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyridin-3-yl)-N-ethylthiophene-2-sulfonamide as a white solid after preparatory HPLC purification. 1H NMR (300 MHz, MeOH) δ ppm 8.31 (d, J=2.3 Hz, 1H), 8.07 (d, J=8.0 Hz, 1 H), 7.72 (d, J=2.3 Hz, 1H), 7.54 (dd, J=3.8, 2.1 Hz, 1H), 7.52 (d, J=1.7 Hz, 1H), 7.48 (s, 1 H), 7.34 (d, J=3.8 Hz, 1H), 3.57 (dd, J=13.4, 6.5 Hz, 1H), 2.93-3.15 (m, 2H), 1.85-2.03 (m, 3H), 1.13 (dd, J=14.5, 7.2 Hz, 3H); MS (EI) m/z: 429 [M+H]+.

reactant | (6-amino-5-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyridin-3-yl)boronic acid | 1.02 mmol, 291 mg | NC1=C(C=C(C=N1)B(O)O)C=1C=C2CCNC(C2=CC1)=O | C14H14BN3O3
reactant | 5-bromo-N-ethylthiophene-2-sulfonamide | 1.02 mmol, 278 mg | BrC1=CC=C(S1)S(=O)(=O)NCC | C6H8BrNO2S2
reactant | Na2CO3 | 2.0 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(6-amino-5-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyridin-3-yl)-N-ethylthiophene-2-sulfonamide | NC1=C(C=C(C=N1)C1=CC=C(S1)S(=O)(=O)NCC)C=1C=C2CCNC(C2=CC1)=O | C20H20N4O3S2
